US04297096
To a solution of 1-(2-tetrahydropyranyloxy)-trans-5-nonen-2-yne (61.5 g) in methanol (250 ml) was added 4% oxalic acid (250 ml). The reaction mixture was refluxed for 2 hours and concentrated under reduced pressure to give a residue, which was extracted with ether, washed with water, dried over magnesium sulfate and concentrated under reduced pressure to give a yellowish oily residue. The oily residue was distilled under reduced pressure to give colorless oily trans-5-nonen-2-yne-1-ol (37 g).

reactant | 1-(2-tetrahydropyranyloxy)-trans-5-nonen-2-yne | 61.5 g | O1C(CCCC1)OCC#CC\C=C\CCC | C14H22O2
reactant | oxalic acid | 250 ml | C(C(=O)O)(=O)O | C2H2O4
solvent | methanol | 250 ml | CO | CH4O
product | trans-5-nonen-2-yne-1-ol | 37 g | C(C#CC\C=C\CCC)O | C9H14O
